US07112598B2
3-Acetyl-6-chloro-2-[2-(3-(N-isopropyl-N-(2-methoxyacetoxyethyl)-amino)propoxy)-5-methoxyphenyl]benzothiazoline Hydrochloride (Compound No. 19-1)
Methoxyacetyl chloride (0.08 ml, 0.87 mmol) was added to a solution of 3-acetyl-6-chloro-2-[2-(3-(N-(2-hydroxyethyl)-N-isopropylamino)propoxy)-5-methoxyphenyl]benzothiazoline hydrochloride (300 mg, 0.58 mmol) in triethylamine (0.41 ml, 2.90 mmol) and methylene chloride (1.0 ml) under ice-cooling. The mixture was stirred at room temperature for two hours, then water (50 ml) was added to the reaction mixture, and the whole was extracted with ethyl acetate (50 ml). The ethyl acetate layer was washed with saturated brine (50 ml) and dehydrated with anhydrous magnesium sulfate. Ethyl acetate was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (mobile phase: chloroform/methanol=50/1). The obtained oily matter was dissolved in ethyl acetate (1 ml), and then a 4 N solution (0.2 ml) of hydrogen chloride in ethyl acetate was added thereto under ice-cooling. The mixture was concentrated under reduced pressure to give 340 mg (quantitatively) of the target compound.

reactant | Methoxyacetyl chloride | 0.87 mmol, 0.08 ml | COCC(=O)Cl | C3H5ClO2
reactant | 3-acetyl-6-chloro-2-[2-(3-(N-(2-hydroxyethyl)-N-isopropylamino)propoxy)-5-methoxyphenyl]benzothiazoline hydrochloride | 0.58 mmol, 300 mg | Cl.C(C)(=O)N1C(SC2=C1C=CC(=C2)Cl)C2=C(C=CC(=C2)OC)OCCCN(C(C)C)CCO
reactant | triethylamine | 2.90 mmol, 0.41 ml | C(C)N(CC)CC | C6H15N
reactant | water | 50 ml | O | H2O
solvent | methylene chloride | 1.0 ml | C(Cl)Cl | CH2Cl2
product | 3-Acetyl-6-chloro-2-[2-(3-(N-isopropyl-N-(2-methoxyacetoxyethyl)-amino)propoxy)-5-methoxyphenyl]benzothiazoline Hydrochloride | Cl.C(C)(=O)N1C(SC2=C1C=CC(=C2)Cl)C2=C(C=CC(=C2)OC)OCCCN(CCOC(COC)=O)C(C)C | InChI=1S/C27H35ClN2O6S.ClH/c1-18(2)29(12-14-36-26(32)17-33-4)11-6-13-35-24-10-8-21(34-5)16-22(24)27-30(19(3)31)23-9-7-20(28)15-25(23)37-27;/h7-10,15-16,18,27H,6,11-14,17H2,1-5H3;1H
